US06617329B2
4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopentyloxy-7-[2-(piperazin-1-yl)-ethoxy]-quinazoline
2.00 ml trifluoroacetic acid are added dropwise to 740 mg of 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopentyloxy-7-{2-[4-(tert.butyloxycarbonyl)-piperazin-1-yl]-ethoxy}-quinazoline in 10 ml of methylene chloride. The reaction solution is stirred overnight at ambient temperature. For working up the reaction mixture is concentrated by evaporation, combined with 20 ml of water and made alkaline with concentrated aqueous ammonia solution. The aqueous phase is extracted with ethyl acetate. The combined extracts are washed with saturated sodium carbonate solution and saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. A light yellow solid remains.

reactant | trifluoroacetic acid | 2.00 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopentyloxy-7-{2-[4-(tert.butyloxycarbonyl)-piperazin-1-yl]-ethoxy}-quinazoline | 740 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC1CCCC1)OCCN1CCN(CC1)C(=O)OC(C)(C)C | C30H37ClFN5O4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopentyloxy-7-[2-(piperazin-1-yl)-ethoxy]-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC1CCCC1)OCCN1CCNCC1 | C25H29ClFN5O2
